US06143764
N-(4-Bromophenyl)-N'-{4-[(6,7-dimethoxy-4-quinolinyl)oxy]phenyl}urea [45]
6,7-Dimethoxy-4-(4-aminophenoxy)quinoline (52 mg) was dissolved in toluene (3 ml) with heat, 4-bromophenyl isocyanate (0.2 ml) was added, and the admixture was refluxed with heat for 50 minutes. The separated crystals were filtered and washed with toluene to obtain 56 mg of the title compound (yield: 64%).

reactant | 6,7-Dimethoxy-4-(4-aminophenoxy)quinoline | 52 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)N | C17H16N2O3
reactant | 4-bromophenyl isocyanate | 0.2 ml | BrC1=CC=C(C=C1)N=C=O | C7H4BrNO
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
product | N-(4-Bromophenyl)-N'-{4-[(6,7-dimethoxy-4-quinolinyl)oxy]phenyl}urea | 56 mg, yield: 64% | BrC1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OC | C24H20BrN3O4
